US07943647B2
5-(4′-Hydroxymethylbiphenyl-2-yl)-1H-tetrazole
2.1 g of 4′-hydroxymethyl-biphenyl-2-carbonitrile (10 mmol), are treated, in a drop wise manner at 0° C. with 5.52 ml of triethyl aluminium (10 mmol, 1.8M in toluene). The reaction mixture is stirred for 5 minutes. After that, the clear colourless reaction mixture is added to the solution of diisobutyl aluminium azide (19 mmol), gradually warmed to an internal temperature of about 100° C. and stirred over the night (conversion 95.7%). For the work up the reaction mixture is cooled to 0° C. and added dropwise to a solution of 30 ml of HCl (2 N) containing 1.38 g of NaNO2 (20 mmol) (cooled to 0° C.). 40 ml of iso-propyl acetate are added and the mixture is extracted once with 15 ml of HCl 2N, once with 20 ml of water. The combining aqueous layers are extracted twice with 10 ml of isopropyl acetate. The organic phase is extracted three times with 15 ml portions of an aqueous solution of K2CO3 (10%). The aqueous phase is washed once with 15 ml of isopropyl acetate. HCl (2 N) is added to the aqueous phase to adjust the pH to 2, and the solution is extracted three times with 20 ml portion of isopropyl acetate. The combining organic phase is washed once with 20 ml of water and the solvent is removed to give the crude product. The crude product is crystallized from ethyl acetate and isopropyl ether to give the pure product.

reactant | 4′-hydroxymethyl-biphenyl-2-carbonitrile | 10 mmol, 2.1 g | OCC1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C14H11NO
reactant | triethyl aluminium | 10 mmol, 1.8M, 5.52 ml | C(C)[Al](CC)CC
reactant | diisobutyl aluminium azide | 19 mmol | [N-]=[N+]=[N-].C(C(C)C)[Al+]CC(C)C
reactant | HCl | 2 N, 30 ml | Cl | ClH
reactant | NaNO2 | 20 mmol, 1.38 g | N(=O)[O-].[Na+]
solvent | iso-propyl acetate | 40 ml | C(C)(=O)OC(C)C | C5H10O2
product | 5-(4′-Hydroxymethylbiphenyl-2-yl)-1H-tetrazole | OCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C14H12N4O
